* C:\Documents and Settings\qermit\Moje dokumenty\MOZA-PROJ1\schemat_optim.asc
Q1 N003 N004 N005 0 tranzystor
Q2 N002 N003 0 0 tranzystor
Q3 out N002 N006 0 tranzystor
CF N006 N005 {C1}
RS N004 in {RS}
RC3 N001 out {RC3}
RC2 N001 N002 {RC2}
RC1 N001 N003 {RC1}
RE1 N005 0 {RE1}
RE3 N006 0 {RE3}
Vdc N007 0 {V3}
Vin in N007 SINE(0 0.01 1000) AC 0.01
V1 N001 0 12
R7 N006 N005 {R7}
.model NPN NPN
.model PNP PNP
.lib C:\PROGRA~1\LTC\LTSPIC~1\lib\cmp\standard.bjt
.model tranzystor NPN(Is=1f Xti=3 Eg=1.11 Vaf=74.03 Bf=150 Ne=1.307
+ Ise=14.34f Ikf=.2847 Xtb=1.5 Br=10 Nc=2 Isc=0 Ikr=0 Rc=1
+ Cjc=1p Mjc=0.3 Vjc=0.8 Fc=.5 Cje=0.1p Mje=0.3 Vje=0.8
+ Tr=40n Tf=400p Itf=.6 Vtf=1.7 Xtf=3 Rb=50)
* National pid=19 case=TO18
* 88-09-07 bam creation
.ac dec 20000k 0.01 10G
.inc param_const.inc
* .PARAM C1 5.82p
* .PARAM R5 600
* .PARAM V3 0.956
.inc param.inc
* Tranzystor = BC107BP
.backanno
.end
